US07718645B2
2-(4-(4-(4-amino-5-oxo-7,8-dihydropyrimido[5,4-f][1,4]oxazepin-6(5H)-yl)-3-fluorophenyl)cyclohexyl)acetic Acid
The title compound was prepared as follows. A mixture of methyl 2-(4-(4-(4-chloro-5-oxo-7,8-dihydropyrimido[5,4-f][1,4]oxazepin-6(5H)-yl)-3-fluorophenyl)cyclohexyl)acetate (20 mg, 0.045 mmol), from Preparation 4, in 0.5M ammonia in dioxane was stirred at 50° C., in a tightly capped flask, for 3 hours. The reaction mixture was concentrated to give a white solid, which was carried on to the next step without further purification. LiOH (4.5 mg, 0.18 mmol) was added to a solution of the white solid in THF/methanol/water (2.4 mL, 3:2:1) and the resulting solution was stirred at 23° C. for 16 hours. 1M HCl solution was added to reaction solution to adjust the pH about 3. 20% i-propanol in DCM (30 mL) was added to extract reaction mixture. The organic layer was separated and dried over MgSO4 and concentrated to give a solid. Purification was done by chromatography (4 g, silica gel column) with methanol/DCM from 2-6% to give a white solid 12 mg as the title compound.

reactant | methyl 2-(4-(4-(4-chloro-5-oxo-7,8-dihydropyrimido[5,4-f][1,4]oxazepin-6(5H)-yl)-3-fluorophenyl)cyclohexyl)acetate | 0.045 mmol, 20 mg | ClC1=NC=NC2=C1C(N(CCO2)C2=C(C=C(C=C2)C2CCC(CC2)CC(=O)OC)F)=O | C22H23ClFN3O4
reactant | LiOH | 0.18 mmol, 4.5 mg | [Li+].[OH-]
reactant | HCl | 1M | Cl | ClH
reactant | i-propanol | C(C)(C)O | C3H8O
reactant | ammonia | 0.5M | N | H3N
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | THF methanol water | 2.4 mL | C1CCOC1.CO.O
solvent | DCM | 30 mL | C(Cl)Cl | CH2Cl2
product | 2-(4-(4-(4-amino-5-oxo-7,8-dihydropyrimido[5,4-f][1,4]oxazepin-6(5H)-yl)-3-fluorophenyl)cyclohexyl)acetic Acid | NC1=NC=NC2=C1C(N(CCO2)C2=C(C=C(C=C2)C2CCC(CC2)CC(=O)O)F)=O | C21H23FN4O4
